US06444668B1
6-(3—Nitrophenyl)-spiro[4H-3,1-benzoxazine-4,1′-cyclohexan]-2(1H)-one
Prepared from 6-bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2(1H)-one and 3-nitrophenyl boronic acid according to Procedure A. Off-white solid: mp 245-246° C. 1H-NMR (CDCl3) δ8.39 (t, 1H, J=1.9 Hz), 8.20 (dd, 1H, J=8.2, 1.4 Hz), 8.11 (s, 1H, D2O exchangeable), 7.86 (d, 1H, J=8.0 Hz), 7.62 (t, 1H, J=8.1 Hz), 7.50 (dd, 1H, J=8.2, 1.9 Hz), 7.39 (d, 1H, J=1.8 Hz), 6.93 (d, 1H, J=8.2 Hz), 2.25 (d, 2H, J=12.7 Hz), 1.60-1.99 (m, 7H), 1.31-1.42 (m, 1H); MS (EI) m/z 337 ([M−H]−, 100%). Anal. Calc. For C19H18N2O4.0.35H2O: C, 66.21, H, 5.47, N, 8.13 Found: C, 66.22, H, 5.43, N, 7.86.

reactant | 6-bromo-spiro[4H-3,1-benzoxazine-4,1′-cyclohexane]-2(1H)-one | BrC=1C=CC2=C(C1)C1(CCCCC1)OC(N2)=O | C13H14BrNO2
reactant | 3-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 6-(3—Nitrophenyl)-spiro[4H-3,1-benzoxazine-4,1′-cyclohexan]-2(1H)-one | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=CC2=C(C1)C1(CCCCC1)OC(N2)=O | C19H18N2O4
